US08633173B2
[5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-morpholin-4-ylmethyl-phenyl)-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and 4-(3-bromo-benzyl)-morpholine (75.0 mg, 0.293 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (29.0 mg, 0.0530 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as yellow foam (0.042 g, 35%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.27 (d, J=8.5 Hz, 2H), 8.14 (d, J=8.5 Hz, 2H), 7.59-7.47 (m, 4H), 7.29 (t, J=7.8 Hz, 1H), 7.06 (dd, J=4.5, 3.9 Hz, 1H), 6.97 (d, J=7.4 Hz, 1H), 6.94 (s, 1H), 3.73-3.67 (m, 4H), 3.50 (s, 2H), 3.15 (s, 3H), 2.50-2.42 (m, 4H). MS=464 (MH)+.

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 4-(3-bromo-benzyl)-morpholine | 0.293 mmol, 75.0 mg | BrC=1C=C(CN2CCOCC2)C=CC1 | C11H14BrNO
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0530 mmol, 29.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-morpholin-4-ylmethyl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC(=CC=C2)CN2CCOCC2 | C24H25N5O3S
